### PR TITLE
Add interiorI.

### PR DESCRIPTION
**Pull request by vlj**
This is a usual lemma in topology, interior of intersection is intersection of interior.

### CODE REVIEW

**Comment by affeldt-aist** [comment]
Fine with me, except that I would try to write the script more compactly, something like
```
rewrite /interior predeqE => //= x; rewrite locallyE; split => [[B0 [?]] | []].
- by rewrite subsetI => -[? ?]; split; rewrite locallyE; exists B0.
- rewrite locallyE => -[B0 [? ?]] [B1 [? ?]]; exists (B0 `&` B1); split;
  [exact: neighI | by rewrite subsetI; split; apply: subIset; [left|right]].
```

**Comment by vlj** [comment]
I changed the proof to follow yours.

File: theories/topology.v [hunk 1]
```diff
@@ -1398,6 +1398,14 @@ Proof. by move=> [Aop Ap] [Bop Bp]; split; [apply: openI|split]. Qed.
 Lemma neigh_locally (p : T) (A : set T) : neigh p A -> locally p A.
 Proof. by rewrite locallyE => p_A; exists A; split. Qed.
 
+Lemma interiorI (A B:set T): (A `&` B)^° = A^° `&` B^°.
+Proof.
+rewrite /interior predeqE => //= x; rewrite locallyE; split => [[B0 [?]] | []].
+- by rewrite subsetI => // -[? ?]; split; rewrite locallyE; exists B0.
+- rewrite locallyE => -[B0A] [? ?] -[B0B] [? ?]. exists (B0A `&` B0B) ;split;
```
Comment (CohenCyril) [inline theories/topology.v:1405]:
```suggestion
- rewrite locallyE => -[B0A] [? ?] -[B0B] [? ?]; exists (B0A `&` B0B); split;
```

File: theories/topology.v [hunk 2]
```diff
@@ -1398,6 +1398,14 @@ Proof. by move=> [Aop Ap] [Bop Bp]; split; [apply: openI|split]. Qed.
 Lemma neigh_locally (p : T) (A : set T) : neigh p A -> locally p A.
 Proof. by rewrite locallyE => p_A; exists A; split. Qed.
 
+Lemma interiorI (A B:set T): (A `&` B)^° = A^° `&` B^°.
+Proof.
+rewrite /interior predeqE => //= x; rewrite locallyE; split => [[B0 [?]] | []].
+- by rewrite subsetI => // -[? ?]; split; rewrite locallyE; exists B0.
+- rewrite locallyE => -[B0A] [? ?] -[B0B] [? ?]. exists (B0A `&` B0B) ;split;
+  [exact: neighI | by rewrite subsetI; split; apply: subIset;  [left|right]].
```
Comment (CohenCyril) [inline theories/topology.v:1406]:
```suggestion
  [exact: neighI | by rewrite subsetI; split; apply: subIset; [left|right]].
```

Comment (vlj) [reply theories/topology.v]: fixed extra space

**Comment by vlj** [comment]
Force pushed a version with naming/whitespace fixes.
